US04279918
2-(α-cyano-3,4-methylenedioxybenzylidene)-1-methylpyrrolidine
Add (dropwise at 80°, with stirring) a solution of 3.5 g of sodium in 80 ml of ethanol to a mixture of 16.1 g of 3,4-methylenedioxybenzylcyanide and 36 g of 2-dimethylamino-1-methyl-1-pyrrolinium-methylsulfate. Continue boiling the resulting reaction mixture for a further 2 hours. Then distil off the solvent under a vacuum and take up the residue with water/diethyl ether. Collect the ethereal layer. Dry it over sodium sulfate and concentrate it to obtain 18 g (67% of theory) of the title compound as oily liquid.

reactant | sodium | 3.5 g | [Na] | Na
reactant | 3,4-methylenedioxybenzylcyanide | 16.1 g | C1OC=2C=C(CC#N)C=CC2O1 | C9H7NO2
reactant | 2-dimethylamino-1-methyl-1-pyrrolinium methylsulfate | 36 g | CN(C1=[N+](CCC1)C)C.COS(=O)(=O)[O-]
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | 2-(α-cyano-3,4-methylenedioxybenzylidene)-1-methylpyrrolidine | C(#N)C(C1=CC2=C(C=C1)OCO2)=C2N(CCC2)C | C14H14N2O2
